US07777047B2
4-(benzylthio)-4-(nitromethyl)tetrahydro-2H-pyran
A mixture of tetrahydro-4H-pyran-4-one (10.3 g), benzylmercaptan (25.6 g), nitromethane (62.8 g), ethylenediamine (6.18 g) and acetonitrile (150 ml) was heated overnight under reflux. The reaction mixture was concentrated, and the obtained residue was subjected to silica gel column chromatography to give the title compound (17.6 g, yield 67%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (3:1, volume ratio).

reactant | tetrahydro-4H-pyran-4-one | 10.3 g | O1CCC(CC1)=O | C5H8O2
reactant | benzylmercaptan | 25.6 g | C(C1=CC=CC=C1)S | C7H8S
reactant | nitromethane | 62.8 g | [N+](=O)([O-])C | CH3NO2
reactant | ethylenediamine | 6.18 g | C(CN)N | C2H8N2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 4-(benzylthio)-4-(nitromethyl)tetrahydro-2H-pyran | 17.6 g, yield 67% | C(C1=CC=CC=C1)SC1(CCOCC1)C[N+](=O)[O-] | C13H17NO3S
